US08735597B2
Synthesis of 3-[4-(Benzoxazol-2-yl)phenyl]-6,9-diphenyl-9H-carbazole
In a 100 mL three-neck flask were put 0.75 g (2.8 mmol) of 2-(4-bromophenyl)benzoxazole, 1.0 g (2.8 mmol) of 6,9-diphenyl-9H-carbazole-3-boronic acid, and 0.060 g (0.20 mmol) of tri(ortho-tolyl)phosphine. To this mixture were added 15 mL of 1,2-dimethoxyethane (abbreviation: DME) and 5 mL of a 2M potassium carbonate aqueous solution. This mixture was degassed under reduced pressure, and then the atmosphere in the flask was replaced with nitrogen. To this mixture was added 6.2 mg (0.028 mmol) of palladium(II)acetate, and the resulting mixture was stirred at 90° C. for 3 hours while being heated. After that, chloroform was added to this mixture, and this suspension was washed with a saturated aqueous sodium carbonate solution and saturated brine in that order. Then, magnesium sulfate was added to the organic layer to dry it. After that, this mixture was suction filtered. The resulting filtration was suction filtered through Celite 545 (produced by Kishida Chemical Co., Ltd., Catalog No. 020-14815), whereby a filtrate was obtained.

reactant | 2-(4-bromophenyl)benzoxazole | 2.8 mmol, 0.75 g | BrC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | C13H8BrNO
reactant | 6,9-diphenyl-9H-carbazole-3-boronic acid | 2.8 mmol, 1.0 g | C1(=CC=CC=C1)C=1C=C2C=3C=C(C=CC3N(C2=CC1)C1=CC=CC=C1)B(O)O | C24H18BNO2
reactant | tri(ortho-tolyl)phosphine | 0.20 mmol, 0.060 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | potassium carbonate | 2M | C([O-])([O-])=O.[K+].[K+]
catalyst | palladium(II)acetate | 0.028 mmol, 6.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | 1,2-dimethoxyethane | 15 mL | COCCOC | C4H10O2
product | 3-[4-(Benzoxazol-2-yl)phenyl]-6,9-diphenyl-9H-carbazole | O1C(=NC2=C1C=CC=C2)C2=CC=C(C=C2)C=2C=CC=1N(C3=CC=C(C=C3C1C2)C2=CC=CC=C2)C2=CC=CC=C2 | C37H24N2O
